US07897774B2
2-(Quinolin-4-ylmethylthio)pyridine-3-carboxylic acid (Reference Compound No. 7-1)
Triethylamine (33 mL, 240 mmol) was added to a suspension of a mixture containing 4-(chloromethyl) quinoline (Reference Compound No. 5-1, 17.0 g) and 2-mercaptonicotinic acid (13 g, 86 mmol) in anhydrous N,N-dimethylformamide (200 mL) at room temperature, and the mixture was stirred for 48 hours. Water (700 mL) and ethyl acetate (400 mL) were added thereto. After the mixture was separated into the organic layer and the aqueous layer, 1N hydrochloric acid (50 mL) was added to the aqueous layer. The precipitated solid was filtered off and dried under reduced pressure at 60° C. to give 15 g of the title Reference Compound as a yellow solid (Yield: 59%).

reactant | Triethylamine | 240 mmol, 33 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(chloromethyl) quinoline | ClCC1=CC=NC2=CC=CC=C12 | C10H8ClN
reactant | 2-mercaptonicotinic acid | 86 mmol, 13 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | Water | 700 mL | O | H2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Quinolin-4-ylmethylthio)pyridine-3-carboxylic acid | Yield: 59% | N1=CC=C(C2=CC=CC=C12)CSC1=NC=CC=C1C(=O)O | C16H12N2O2S
